** sch_path: /foss/designs/Curso_Semiconductores/4_nor1X/4_nor1X.sch
.subckt 4_nor1X A B C D Y VDD! VSS!
*.PININFO A:I B:I C:I Y:O D:I VDD!:B VSS!:B
XM2 net1 A VDD! VDD! sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 m=2
XM1 Y A VSS! VSS! sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XM5 Y B VSS! VSS! sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XM6 Y C VSS! VSS! sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XM7 Y D VSS! VSS! sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XM3 net2 B net1 VDD! sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 m=2
XM4 net3 C net2 VDD! sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 m=2
XM8 Y D net3 VDD! sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 m=2
.ends
